US03947374
Preparation of 2,4-Dichloro-6-phthalimidyl-s-triazine ##SPC5##
18.5 Grams cyanuric chloride, 18.5 grams potassium phthalimide and 200 ml. acetone were combined and stirred at 0°-5°C. for 7 hours. The reaction mixture was then allowed to warm to room temperature and stirred an additional 15 hours. The white slurry was filtered, washed with cold acetone, reslurried in 250 ml. cold water, filtered, washed with water and dried. On recrystallization from benzene, there was obtained 17 grams of product, m.p. 175°-179°C.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | potassium phthalimide | 18.5 grams | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetone | CC(=O)C | C3H6O
product | 2,4-Dichloro-6-phthalimidyl-s-triazine | 17 grams | ClC1=NC(=NC(=N1)Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C11H4Cl2N4O2
